US05639752
C. 3-(2-Dimethylaminoethyl)-5-(3,5-dinitropyrid-2-ylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 2-chloro-3,5-dinitropyridine were used. Triethylamine was used as base, tetrahydrofuran was used as solvent, and the reaction was stirred at room temperature for 1 hour. Direct filtration of the reaction mixture afforded a red solid which was recrystallized in ethanol to afford the title compound (7%) as a red solid: mp, 194.0°-195.0° C.; 13C NMR (DMSO-d6) δ152.2, 150.7, 134.7, 134.1, 131.2, 128.2, 127.1, 126.7, 123.9, 119.1, 114.8, 112.7, 111.4, 59.7, 44.9, 22.8; HRMS calculated for C17H18N6O4 370.1391, found 370.1358. Anal. calcd. for C17H18N6O4.1/2H2O: C, 53.82; H, 5.04; N, 22.15. Found: C, 53.55; H, 4.58; N, 21.98.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-Dimethylaminoethyl)-5-(3,5-dinitropyrid-2-ylamino)-1H-indole | 7% | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C | C17H18N6O4
